US06596718B1
A solution of 10.5 g (35.4 mmol) (2-methoxy-5-morpholin-4-yl-phenylamino)-thioxo-acetic acid in 248 ml (248 mmol) 1N NaOH was added drop-wise to a solution of 40.1 g (119 mmol) potassium ferricyanide in 119 ml water at a rate that the temperature did not exceed 10° C. The mixture was stirred for 3 hours at 10° C. and concentrated hydrochloric acid was added until pH 1 was reached. Filtration of the precipitate and drying yielded 8.80 g (84%) 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid as yellow crystals with mp.: 99-100° C., MS m/e (%)): 295 (M+H+, 100).

reactant | (2-methoxy-5-morpholin-4-yl-phenylamino)-thioxo-acetic acid | 35.4 mmol, 10.5 g | COC1=C(C=C(C=C1)N1CCOCC1)NC(C(=O)O)=S | C13H16N2O4S
reactant | NaOH | 248 mmol, 1N, 248 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 119 ml | O | H2O
catalyst | potassium ferricyanide | 119 mmol, 40.1 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | 4-methoxy-7-morpholin-4-yl-benzothiazole-2-carboxylic acid | 8.80 g, 84% | COC1=CC=C(C2=C1N=C(S2)C(=O)O)N2CCOCC2 | C13H14N2O4S
